US08664210B2
To a suspension of KOH powder (4.86 g) in DMSO (250 ml) under vigorous stirring, benzophenone oxime (7.86 g) was added. After stirring at RT for 30 min, a solution of N-tert-butoxy-carbonyl-3-(S)-pyrrolidinyl methanesulfonate (10.0 g) in DMSO (70 ml) was added. After 18 h at RT the reaction was poured into iced water (900 ml) and extracted with Et2O. The combined organic layers were washed with water, brine, dried and the solvent was evaporated. Benzophenone O-[(R)-3-pyrrolidinyl]oxime was obtained (13.0 g, 96%) as a white solid and used without any further purification in the next step.

reactant | KOH | 4.86 g | [OH-].[K+]
reactant | benzophenone oxime | 7.86 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | N-tert-butoxy-carbonyl-3-(S)-pyrrolidinyl methanesulfonate | 10.0 g | CS(=O)(=O)O[C@@H]1C(N(CC1)OC(C)(C)C)=C=O | C10H17NO5S
reactant | water | 900 ml | O | H2O
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | Benzophenone O-[(R)-3-pyrrolidinyl]oxime | N1C[C@@H](CC1)ON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H18N2O
